US07956070B2
Step 2: tert-Butyl{2-chloro-5-[({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)carbonyl]phenoxy}acetate
Prepared as for Example 15, Step 2 using 3-(2-tert-butoxy-2-oxoethoxy)-4-chlorobenzoic acid and (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol to yield the subtitle compound as a colourless oil (0.14 g).

reactant | 3-(2-tert-butoxy-2-oxoethoxy)-4-chlorobenzoic acid | C(C)(C)(C)OC(COC=1C=C(C(=O)O)C=CC1Cl)=O | C13H15ClO5
reactant | (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol | NC[C@H](CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C)O | C15H22Cl2N2O2
product | tert-Butyl{2-chloro-5-[({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)carbonyl]phenoxy}acetate | 0.14 g | C(C)(C)(C)OC(COC1=C(C=CC(=C1)C(=O)NC[C@H](CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C)O)Cl)=O | C28H35Cl3N2O6
